US05240925
To a flask was added 5.0 g. (0.03 mole) of 4-(2-hydroxyethyl)-2,6-dimethylmorpholine in 50 ml. of carbon tetrachloride followed by 10.2 g. (0.04 mole) of triphenylphosphine. The mixture was stirred at reflux for three hours, then the reaction was cooled to 0° C., the triphenylphosphine oxide was filtered and the solvent stripped. The residue was dissolved in 10% aqueous hydrochloric acid and the by-products were extracted into ethyl acetate. The acid layer was then basified with ammonium hydroxide and extracted into ethyl acetate. The ethyl acetate solution was dried with magnesium sulfate, filtered, and concentrated. The crude product was further purified by flash chromatography to give 2.31 g. (43% yield) of 4-(2-chloroethyl)-2,6-dimethylmorpholine as a colorless liquid.

reactant | 4-(2-hydroxyethyl)-2,6-dimethylmorpholine | 0.03 mole | OCCN1CC(OC(C1)C)C | C8H17NO2
reactant | triphenylphosphine | 0.04 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(2-chloroethyl)-2,6-dimethylmorpholine | 43% yield | ClCCN1CC(OC(C1)C)C | C8H16ClNO
